US07547680B2
2-{3-[(3-Aminopropylcarbamoyl)methoxy]benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-{3-[(3-t-Butoxycarbonylaminopropylcarbamoyl)methoxy]benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole (15 mg) was dissolved in 22% hydrochloride-ethanol solution, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=90/10-10/90) to give the title compound (9 mg).

reactant | 2-{3-[(3-t-Butoxycarbonylaminopropylcarbamoyl)methoxy]benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole | 15 mg | C(C)(C)(C)OC(=O)NCCCNC(=O)COC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C29H39N5O8
solvent | hydrochloride ethanol | Cl.C(C)O
product | 2-{3-[(3-Aminopropylcarbamoyl)methoxy]benzylamino}-1-(β-D-ribofuranosyl)-1H-benzimidazole | 9 mg | NCCCNC(=O)COC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1 | C24H31N5O6
